US06281221B1
5-Chloro-6-ethyl-4-(cis-2-phenyl-dioxan-5-yloxy)-pyrimidine
1.8 g (10 mmol) of cis-5-hydroxy-2-phenyl-1,3-dioxane (E. Juaristi, S. Antunez, Tetrahedron 48, 5941 (1992), incorporated herein by reference) and 1.8 g of 4,5-dichloro-6-ethyl-pyrimidine were initially introduced into 15 ml of dry tetrahydrofuran, and 0.4 g (12 mmol) of sodium hydride (80% in mineral oil) was added in portions at room temperature. The mixture was subsequently stirred at room temperature for 8 hours, 2 ml of methanol were added dropwise and the mixture was concentrated. The residue was taken up in ethyl acetate, the mixture was filtered and the filtrate was concentrated. For purification, the residue was chromatographed over silica gel (petroleum ether/ethyl acetate 1:1).

reactant | cis-5-hydroxy-2-phenyl-1,3-dioxane | 10 mmol, 1.8 g | O[C@@H]1CO[C@@H](OC1)C1=CC=CC=C1 | C10H12O3
reactant | 4,5-dichloro-6-ethyl-pyrimidine | 1.8 g | ClC1=NC=NC(=C1Cl)CC | C6H6Cl2N2
reactant | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 12 mmol, 0.4 g | [H-].[Na+]
reactant | methanol | 2 ml | CO | CH4O
product | 5-Chloro-6-ethyl-4-(cis-2-phenyl-dioxan-5-yloxy)-pyrimidine | ClC=1C(=NC=NC1CC)O[C@@H]1OC[C@@H](OC1)C1=CC=CC=C1 | C16H17ClN2O3
